Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: balloon angioplasty with superior mesenteric artery 
stent

 
History of Present Illness:
___ with known history of chronic mesenteric ischemia presents 
to the ___ ER with a one day history abdominal pain. Patient 
states the pain began around 8AM and began as a dull pain which 
gradually increased in intensity. The is described as sharp and 
"wave-like." The pain is intermittent and sudden in onset and 
lasts for ___ minutes. The pain can be exacerbated by positional 
changes and has no alleviating factors.  She has also been 
experiencing some low grade fever and chills. 

During most recent ultrasound assessment, peak systolic 
velocities of as high as 651 were noted in the SMA which was a 
relative to last ultrasound performed in ___.  She had 
been scheduled electively for superior mesenteric artery 
stenting.  

She denies any recent illnesses and states she eats 
approximately 2 meals a day. She denies any recent weight loss 
and states she has gained weight since last ___. 
 
Past Medical History:
PMH: MI early 1990s, s/p cardiac cath, no intervention
PSH: ___ stenting ___, ___ stenting ___, Ex-lap and SBR
___, take back for bleeding ___, SMA stenting 
___, hysterectomy

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
VS:  BP ___ Hr ___.
PE:  Gen - A&Ox3, no abdominal pain
     CV - RRR
     Pulm - CTAB
     Abd - Soft, nondistended, non tender to palpation. 
     Ext - Warm, well perfused, no edema
Pulses:     Fem     Pop     DP     ___
          R palp    palp    palp   palp
          L palp    palp    palp   palp

Left radial pulse is 2+, brachial puncture site is ecchymotic 
but soft.  
 
Pertinent Results:
Arteriogram showed widely patent supraceliac and infrarenal 
aorta,significant stenosis just beyond the origin of the stented 
region of the superior mesenteric artery with additional 
significant stenosis at the midportion of the stented region, 
widely patent superior mesenteric artery in its branches beyond 
the area previously stent,patent bilateral renal arteries, 
completely occluded celiac artery at its origin, completely 
occluded inferior mesenteric artery with previously-placed stent 
evident.

___ 07:30AM BLOOD WBC-3.2* RBC-3.63* Hgb-9.7* Hct-31.5* 
MCV-87 MCH-26.6* MCHC-30.7* RDW-19.8* Plt ___
___ 07:30AM BLOOD Glucose-95 UreaN-7 Creat-0.5 Na-141 K-4.3 
Cl-110* HCO3-23 AnGap-12
___ 07:30AM BLOOD Calcium-8.1* Phos-4.1 Mg-2.2
 
Brief Hospital Course:
Ms ___ was admitted after a balloon angioplasty and stenting 
of the superior mesentaric artery on ___.  She progressed 
nicely after the procedure, tolerating a regular diet by the end 
of POD 1.  She did require a blood transfusion for a hematocrit 
of 26. Her hematocrit on the day of discharge was 31 with a 
creatitine of 0.5. She is ambulatory ad lib and pain free. We 
have arranged follow up with an SMA ultrasound in 2 weeks with 
Dr. ___.   
 
Medications on Admission:
1. aspirin 81 mg daily
2. clopidogrel 75 mg daily
3. simvastatin 20 mg once a day.  
4. ranitidine HCl 150 mg as needed daily.  
5. nicotine 14 mg/24 hr Patch 24 hr.  
6. Ferrous Sulfate 325mg daily  
7. Tylenol ___ mg every ___ hours as needed for pain.  
8. colace 100mg twice daily
 
Discharge Medications:
1. aspirin 81 mg daily. 
2. clopidogrel 75 mg daily
3. simvastatin 20 mg daily.  
4. ranitidine HCl 150 mg daily as needed  
5. Tylenol ___ mg Tablet 2 tabs every ___ hours as needed for 
pain.  
7. ferrous sulfate 325 mg daily.  
8. nicotine 7 mg/24 hr patch change once a day.  
9. colace 100mg twice daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Abdominal Pain
2. Superior Mesenteric Artery Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a balloon angioplasty 
and stenting of a narrowed artery that supplies blood to your 
bowel.  This was felt to be the cause of your abdominal pain. 

Great job on stopping smoking!  As we discussed, we decreased 
your nicotine patches to the 7mg/patch.  

Division of Vascular and Endovascular Surgery
Stent Discharge Instructions

Medications:
•Take Aspirin 81 mg once daily 
•Take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the arm we accessed:
•Elevate your arm on pillows 
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over  incision, rinse 
and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications

 
Followup Instructions:
___